US04227014
A solution of 6 g. of cyclohexylmethyl bromide and 11.19 g. of ethyl p-aminobenzoate in 30 ml. of hexamethylphosphoramide is heated in an oil bath for 20 hours. The solution is poured into ice-cold water and extracted several times with diethyl ether. The combined ether extracts are washed with water, dried with anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure to furnish ethyl p-cyclohexylmethylaminobenzoate as an oil.

reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl p-cyclohexylmethylaminobenzoate | C1(CCCCC1)CNC1=CC=C(C(=O)OCC)C=C1 | C16H23NO2
